US06881754B2
a) 2-Chloro-5-(3-oxopropyl)-benzoic acid
2-Chloro-5-iodobenzoic acid (5.0 g), tetrabutylammonium chloride (5.0 g), sodium hydrogencarbonate (5.3 g) and allyl alcohol (1.6 ml) were combined in N,N-dimethylformamide (50 ml) and PdCl2 (0.6 g) was added under nitrogen. After 24 h ethyl acetate and 2M hydrochloric acid were added to the crude reaction mixture and the precipitated Pd filtered off. The organic phase was separated and washed thrice with 2M hydrochloric acid then once with brine and dried over magnesium sulfate, filtered and evaporate. Purification by chromatography on silica (eluting ethyl acetate: acetic acid/19:1) gave the subtitled product as an oil (2.77 g).

reactant | 2-Chloro-5-iodobenzoic acid | 5.0 g | ClC1=C(C(=O)O)C=C(C=C1)I | C7H4ClIO2
reactant | sodium hydrogencarbonate | 5.3 g | C(O)([O-])=O.[Na+]
reactant | allyl alcohol | 1.6 ml | C(C=C)O | C3H6O
reactant | hydrochloric acid | 2M | Cl | ClH
catalyst | tetrabutylammonium chloride | 5.0 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | PdCl2 | 0.6 g | Cl[Pd]Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-5-(3-oxopropyl)-benzoic acid | 2.77 g | ClC1=C(C(=O)O)C=C(C=C1)CCC=O | C10H9ClO3
